US05260316
2-(3-Phenylpropyl)-6-[2-(N-hydroxyamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline (498 mg, 1.5 mmol) is dissolved in dioxane (15 mL) and methyl isocyanate (0.22 mL, 3.7 mmol) is added. After 12 hours, the reaction mixture is diluted with EtOAc (150 mL) and the organic phase washed with 2N HCl (2×200 mL), H2O (4×200 mL), saturated NaHCO3 solution (2×200 mL), saturated NaCl solution (2×200 mL), dried over MgSO4 and concentrated in vacuo. The resulting material is triturated with hexanes and recrystallized from CH2Cl2 /hexanes to give 2-(3-phenylpropyl)-6-{2-[N-(methylaminocarbonyl)-N-hydroxyamino]-ethoxy}-1-oxo-1,2,3,4-tetrahydroisoquinoline, m.p. 138°-139°.

reactant | 2-(3-Phenylpropyl)-6-[2-(N-hydroxyamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline | 1.5 mmol, 498 mg | C1(=CC=CC=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCNO)=O | C20H24N2O3
reactant | methyl isocyanate | 3.7 mmol, 0.22 mL | CN=C=O | C2H3NO
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-(3-phenylpropyl)-6-{2-[N-(methylaminocarbonyl)-N-hydroxyamino]-ethoxy}-1-oxo-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCN(O)C(=O)NC)=O | C22H27N3O4
